US05849765
Step 1: 4-(Benzothiazol-2-yl)pyridine
2-Aminothiophenol (6.3 g, 0.05 mol) and 4-pyridinecarboxaldehyde (5.4 g, 0.05 mol) were dissolved in dimethylsulfoxide (35 ml) and heated until vapours distilled off at 180°-186° C. The distillation residue on cooling was partitioned between ethyl acetate and saturated ammonium chloride solution. The combined organic layers were washed with water (100 ml), dried (MgSO4) and concentrated. The solid was triturated with ether to afford the title compound as a pale brown solid (9 g, 85%). δH (CDCl3), 7.42 (1H, m, ArH), 7.51 (1H, m, ArH), 7.93 (3H, m, ArH), 8.13 (1H, d, J 8.7Hz, ArH), 8.78 (2H, m, ArH). m/z (ES+) 213 (M+1)+.

reactant | 2-Aminothiophenol | 0.05 mol, 6.3 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 4-pyridinecarboxaldehyde | 0.05 mol, 5.4 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | dimethylsulfoxide | 35 ml | CS(=O)C | C2H6OS
product | 4-(Benzothiazol-2-yl)pyridine | 9 g, 85% | S1C(=NC2=C1C=CC=C2)C2=CC=NC=C2 | C12H8N2S
